* C:\Users\judes\Desktop\UTD Grad Courses\Spring 2026\EECT 7v88\Digital-Twins-transient_v2\LTSpice_files\Draft2.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 PULSE(0 12 1u 1u 1u 10u 20u)
L1 N001 N002 2µ Rser=1m
C1 N002 0 40µ
R1 N002 0 100
.tran 0 10m 0 1u
.backanno
.end
