* C:\Users\judes\Desktop\UTD Grad Courses\Spring 2026\EECT 7v88\Digital-Twins-main\LTSpice_files\Draft1.asc
* Generated by LTspice 26.0.1 for Windows.
R1 Vn2 Vn1 0.1
C1 Vn2 0 1
V1 Vn1 0 PWL(0 1 0.0000001 10)
.tran 0 1 0
.backanno
.end
