* C:\Users\judes\Desktop\UTD Grad Courses\Spring 2026\EECT 7v88\Digital-Twins-transient_v2\LTSpice_files\Draft2.asc
* Generated by LTspice 26.0.1 for Windows.
V1 N001 0 PULSE(0 5 1u 0.0001u 1u 1000u 2000u)
L1 N003 0 10m Rser=0
C1 N002 N003 1n
R1 N002 N001 1k
.tran 0 50u 0
.backanno
.end
